US05410065
Preparation of N-(2,6-Dichloro-3-methylphenyl)-5-formylamino-1,2,4-triazole-5-sulfonamide (Formula I, R=H, W and X=Cl, Y=CH3, and Z=H)
To a mixture of 1 g (5.2 mmol) of 2,6-dichloro-3-methylaniline in 2 ml pyridine was added 1 g (4.7 mmol) of 5-formylamino-3-chlorosulfonyl-1,2,4-triazole over a period of 5 minutes. The mixture was heated with stirring to 70° C. for 4 hours. It was then cooled and dispersed between 25 ml of 1N aqueous sodium hydroxide and 50 ml of chloroform. The aqueous layer was recovered, extracted with more chloroform, and acidified with aqueous hydrochloric acid. The solids that formed were collected by filtration and dried to obtain 1.0 g (59 percent of theory) of the title compound, m.p. 275°-279° C. The infrared and carbon nmr spectra were consistent with the assigned structure.

reactant | 2,6-dichloro-3-methylaniline | 5.2 mmol, 1 g | ClC1=C(N)C(=CC=C1C)Cl | C7H7Cl2N
reactant | 5-formylamino-3-chlorosulfonyl-1,2,4-triazole | 4.7 mmol, 1 g | C(=O)NC1=NC(=NN1)S(=O)(=O)Cl | C3H3ClN4O3S
reactant | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-(2,6-Dichloro-3-methylphenyl)-5-formylamino-1,2,4-triazole-5-sulfonamide | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1(N=CN=N1)NC=O | C10H9Cl2N5O3S
